US09102688B2
General procedure 27: 4-Chloro-N-quinolin-8-yl-benzenesulfonamide (Example Compound 5)
4-Chlorobenzenesulfonyl chloride (300 mg, 1.38 mmol) was added to a stirred solution of 8-aminoquinoline (200 mg, 1.38 mmol) in pyridine (2 ml). DMAP (cat.) was added and the reaction was stirred at room temperature for 4 h. After no further progress of the reaction was observed (monitored by TLC and LCMS), water was added and the mixture was extracted with DCM. The organic phase was washed with a sat. KHSO4 solution, dried (Na2SO4) and concentrated in vacuo. The crude residue was triturated with n-hexane to give the title compound (270 mg, 61%).

reactant | 4-Chlorobenzenesulfonyl chloride | 1.38 mmol, 300 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 8-aminoquinoline | 1.38 mmol, 200 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Chloro-N-quinolin-8-yl-benzenesulfonamide | 270 mg, 61% | ClC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C15H11ClN2O2S
